US09145380B2
2-[2-(2-Chloro-phenyl)-ethenesulfonylamino]-benzenesulfonamide
2-Aminobenzene sulfonamide (153 mg, 0.89 mmol) was added in one portion to a solution of 2-(2-chloro-phenyl)-ethenesulfonyl chloride (150 mg, 0.63 mmol) in pyridine (2 mL) at RT. After 30 minutes of stirring, no more starting material was detected by tlc. The reaction mixture was concentrated under reduced pressure and the residue was taken up in ethyl acetate and a small amount of methanol. The organic phase was washed with 1N HCl, saturated sodium bicarbonate, dried over MgSO4, and concentrated under reduced pressure. Purification by preparative tlc afforded the target compound, which was then recrystallized from ethyl acetate/pentane/diethyl ether to afford the title compound (85 mg, 36%) as a white solid.

reactant | 2-Aminobenzene sulfonamide | 0.89 mmol, 153 mg | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | 2-(2-chloro-phenyl)-ethenesulfonyl chloride | 0.63 mmol, 150 mg | ClC1=C(C=CC=C1)C=CS(=O)(=O)Cl | C8H6Cl2O2S
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 2-[2-(2-Chloro-phenyl)-ethenesulfonylamino]-benzenesulfonamide | 85 mg, 36% | ClC1=C(C=CC=C1)C=CS(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N | C14H13ClN2O4S2
